### PR TITLE
[Add] truncate properties to Data.Vec.Properties

### PR DESCRIPTION
**Pull request by e-mniang**
As suggested by @jamesmckinna, this PR adds several equational properties for truncate to Data.Vec.Properties, extending the standard vector operations toolkit with useful lemmas for reasoning about truncate.

Added properties:
```
- take-updateAt : applying updateAt before or after take yields the same result on valid indices

- truncate-zipWith : truncate commutes with zipWith on vectors of equal length

- truncate-zipWith-truncate : generalizes truncate-zipWith when one vector is already truncated

- zipWith-truncate : zipWith followed by truncate equals truncating the inputs first, when lengths match

- zipWith-truncate₁ : a more general version of zipWith-truncate with shifted truncation offsets

- updateAt-truncate : rewriting updateAt after truncate via take equivalence

- truncate++drop≡id : a vector can be recovered by appending its truncated prefix and dropped suffix

- truncate-map : truncate commutes with map

```

### CODE REVIEW

**Comment by jamesmckinna** [comment]
@MatthewDaggitt are you happy to proceed with this PR, and its predecessor #2769 for v2.4, and only consider #2770 / #2787 downstream, or should we move to reconcile them all together?

UPDATED: I'll review once the direction of travel is (a bit) clearer...

**Comment by MatthewDaggitt** [comment]
Yes, I'm happy to add these now and then the breaking changes in v3.0.

File: CHANGELOG.md [hunk 1]
```diff
@@ -43,3 +43,31 @@ Additions to existing modules
   ∸-suc : m ≤ n → suc n ∸ m ≡ suc (n ∸ m)
   ```
 
+* In `Data.Vec.Properties`:
+  ```agda
+  take-updateAt : (f : A → A) {m n : ℕ} (xs : Vec A (m + n)) (i : Fin m) →
+  updateAt (take m xs) i f ≡ take m (updateAt xs (inject≤ i (m≤m+n m n)) f)
```
Comment (jamesmckinna) [inline CHANGELOG.md]: Several things (which will be recapitulated below):
* indentation/alignment so that `updateAt` in LHS aligns with beginning of type signature on line above
* omit `{m n : ℕ}` from type signature:
  - they're inferrable, and/so should be captured by a `variable` declaration already
  - such arguments should, where possible, never be non-prenex (otherwise, turning them into `variable`s would be a `breaking` change!)
 * I'll double down on my comment on #2769 , and say that the argument order (in particular, the position of the `f` binding) should mirror that for `updateAt` itself, if only for consistency's sake

File: CHANGELOG.md [hunk 2]
```diff
@@ -43,3 +43,31 @@ Additions to existing modules
...
+
+  truncate-zipWith : (f : A → B → C) (m≤n : m ≤ n) (xs : Vec A n) (ys : Vec B n) →
+  truncate m≤n (zipWith f xs ys) ≡ zipWith f (truncate m≤n xs) (truncate m≤n ys)
```
Comment (jamesmckinna) [inline CHANGELOG.md]: Ditto. re: alignment

File: CHANGELOG.md [hunk 3]
```diff
@@ -43,3 +43,31 @@ Additions to existing modules
...
+
+  truncate-zipWith-truncate : truncate o≤m (zipWith f (truncate m≤n xs) ys) ≡
+  zipWith f (truncate o≤n xs) (truncate o≤m ys)
```
Comment (jamesmckinna) [inline CHANGELOG.md]: Besides alignment, *and the quantifier prefix!*, here you need to inline the `let` binding for `o≤n`, as otherwise it's out of scope:
```suggestion
  truncate-zipWith-truncate : truncate o≤m (zipWith f (truncate m≤n xs) ys) ≡
  zipWith f (truncate (≤-trans o≤m m≤n) xs) (truncate o≤m ys)
```

File: CHANGELOG.md [hunk 4]
```diff
@@ -43,3 +43,31 @@ Additions to existing modules
...
+
+  zipWith-truncate : zipWith f (truncate p≤p+q xs) (truncate p≤p+q ys) ≡
+  truncate p≤p+q (zipWith f xs ys)
```
Comment (jamesmckinna) [inline CHANGELOG.md]: I don't understand why you've changed to `p` and `q` here, rather than `m` and `n`?
Also, we 'know' that `p ≤ p + q`, so the (presumably) mnemonic name must be carrying other information? If not, simply use `m≤n`?

File: CHANGELOG.md [hunk 5]
```diff
@@ -43,3 +43,31 @@ Additions to existing modules
...
+
+  zipWith-truncate₁ : zipWith f (truncate o≤o+m+n xs) (truncate (o≤o+m) ys) ≡
+  truncate (o≤o+m) (zipWith f (truncate (o+m≤o+m+n) xs) ys)
```
Comment (jamesmckinna) [inline CHANGELOG.md]: Similarly here, the names are getting very unwieldy... I'll look at the code to see what might be going on...

File: CHANGELOG.md [hunk 6]
```diff
@@ -43,3 +43,31 @@ Additions to existing modules
...
+
+  truncate-updateAt : (f : A → A) (m≤n : m ≤ n) (xs : Vec A n) (i : Fin m) →
+  updateAt (truncate m≤n xs) i f ≡ truncate m≤n (updateAt xs (inject≤ i m≤n) f)
```
Comment (jamesmckinna) [inline CHANGELOG.md]: Alignment.
Position of `f` binding

File: CHANGELOG.md [hunk 7]
```diff
@@ -43,3 +43,31 @@ Additions to existing modules
...
+
+  updateAt-truncate : updateAt (truncate p≤p+q xs) i f ≡ truncate p≤p+q (updateAt xs i′ f)
```
Comment (jamesmckinna) [inline CHANGELOG.md]: What is `i′` here? It's out of scope, so the reader won't know what it refers to...

File: CHANGELOG.md [hunk 8]
```diff
@@ -43,3 +43,31 @@ Additions to existing modules
...
+
+  truncate++drop≡id : (xs : Vec A (m + n)) → truncate (m≤m+n m n) xs ++ drop m xs ≡ xs
```
Comment (jamesmckinna) [inline CHANGELOG.md]: I'm in two minds whether this combination of `take≡truncate` and `take++drop≡id` meets the Fairbairn threshold?

File: CHANGELOG.md [hunk 9]
```diff
@@ -43,3 +43,31 @@ Additions to existing modules
...
+
+  truncate-map : (f : A → B) (m : ℕ) (m≤n : m ≤ n) (xs : Vec A n) →
+  map f (truncate m≤n xs) ≡ truncate m≤n (map f xs)
```
Comment (jamesmckinna) [inline CHANGELOG.md]: Should this be `truncate-map` or `map-truncate`? probably the former, but it's a bit 'odd' wrt our L-R convention for names derived from function compositions...
Also, why is `m` explicit here? It appears neither in the statement, nor the proof, IIUC.

File: src/Data/Vec/Properties.agda [hunk 10]
```diff
@@ -104,6 +104,11 @@ take-map : ∀ (f : A → B) (m : ℕ) (xs : Vec A (m + n)) →
 take-map f zero    xs       = refl
 take-map f (suc m) (x ∷ xs) = cong (f x ∷_) (take-map f m xs)
 
+take-updateAt : (f : A → A) {m n : ℕ} (xs : Vec A (m + n)) (i : Fin m) →
+                updateAt (take m xs) i f ≡ take m (updateAt xs (inject≤ i (m≤m+n m n)) f)
+take-updateAt f (_ ∷ _ ) zero    = refl
+take-updateAt f (x ∷ xs) (suc i) = cong (x ∷_) (take-updateAt f xs i)
```
Comment (jamesmckinna) [inline src/Data/Vec/Properties.agda]: Hmmm... alignment is correct here, so why not in `CHANGELOG`?
```suggestion
take-updateAt : (xs : Vec A (m + n)) (i : Fin m) (f : A → A) →
                updateAt (take m xs) i f ≡ take m (updateAt xs (inject≤ i (m≤m+n m n)) f)
take-updateAt (_ ∷ _ ) zero    f = refl
take-updateAt (x ∷ xs) (suc i) f = cong (x ∷_) (take-updateAt xs i f)
```

File: src/Data/Vec/Properties.agda [hunk 11]
```diff
@@ -154,6 +159,70 @@ take≡truncate : ∀ m (xs : Vec A (m + n)) →
...
+
+truncate-zipWith-truncate : ∀ (f : A → B → C) (o≤m : o ≤ m) (m≤n : m ≤ n)
+  (xs : Vec A n) (ys : Vec B m) →
+  let o≤n = ≤-trans o≤m m≤n in
+  truncate o≤m (zipWith f (truncate m≤n xs) ys) ≡
+  zipWith f (truncate o≤n xs) (truncate o≤m ys)
+truncate-zipWith-truncate f o≤m m≤n xs ys =
+  let o≤n = ≤-trans o≤m m≤n in
+  trans (truncate-zipWith f o≤m (truncate m≤n xs) ys)
+  (cong (λ zs → zipWith f zs (truncate o≤m ys)) ((sym (truncate-trans o≤m m≤n xs))))
```
Comment (jamesmckinna) [inline src/Data/Vec/Properties.agda]: A repeated `let` binding between type and definition is a UX/cognitive annoyance, for which the only really satisfactory solution is to use an anonymous module to share the definition... but here `o≤n` doesn't appear in the definition, so can be dropped in favour of
```suggestion
truncate-zipWith-truncate : ∀ (f : A → B → C) (o≤m : o ≤ m) (m≤n : m ≤ n)
  (xs : Vec A n) (ys : Vec B m) →
  truncate o≤m (zipWith f (truncate m≤n xs) ys) ≡
  zipWith f (truncate (≤-trans o≤m m≤n) xs) (truncate o≤m ys)
truncate-zipWith-truncate f o≤m m≤n xs ys =
  trans (truncate-zipWith f o≤m (truncate m≤n xs) ys)
  (cong (λ zs → zipWith f zs (truncate o≤m ys)) ((sym (truncate-trans o≤m m≤n xs))))
```
plus:
* fix up alignment
* if at all possible, rename and reorder so that `m ≤ n ≤o` in terms of the (implicit) binder ordering... much less cognitive strain on the reader

File: src/Data/Vec/Properties.agda [hunk 12]
```diff
@@ -154,6 +159,70 @@ take≡truncate : ∀ m (xs : Vec A (m + n)) →
...
+zipWith-truncate : ∀ (f : A → B → C) {p q : ℕ} (xs : Vec A (p + q)) (ys : Vec B (p + q)) →
+  let p≤p+q = m≤m+n p q in
+  zipWith f (truncate p≤p+q xs) (truncate p≤p+q ys) ≡ truncate p≤p+q (zipWith f xs ys)
+zipWith-truncate f {p} {q} xs ys =
+  let p≤p+q = m≤m+n p q in
+  begin
+    zipWith f (truncate p≤p+q xs) (truncate p≤p+q ys) ≡⟨ cong₂ (zipWith f) (take≡truncate p xs) (take≡truncate p ys) ⟨
+    zipWith f (take p xs) (take p ys)                 ≡⟨ take-zipWith f xs ys ⟨
+    take p (zipWith f xs ys)                          ≡⟨ take≡truncate p (zipWith f xs ys) ⟩
+    truncate p≤p+q (zipWith f xs ys) ∎ where open ≡-Reasoning
```
Comment (jamesmckinna) [inline src/Data/Vec/Properties.agda]: Assuming this meets the Fairbairn threshold, it's still very hard to parse, but AFAICT, this is a specialised instance of `truncate-zipWith` above... or am I missing something?
Suggest: deletion

File: src/Data/Vec/Properties.agda [hunk 13]
```diff
@@ -154,6 +159,70 @@ take≡truncate : ∀ m (xs : Vec A (m + n)) →
...
+  private
+    o≤o+m = m≤m+n o m
+    o+m≤o+m+n = m≤m+n (o + m) n
+    o≤o+m+n = ≤-trans (m≤m+n o m) (m≤m+n (o + m) n)
+
+  zipWith-truncate₁ : zipWith f (truncate o≤o+m+n xs) (truncate (o≤o+m) ys) ≡
+    truncate (o≤o+m) (zipWith f (truncate (o+m≤o+m+n) xs) ys)
+  zipWith-truncate₁ =
+    trans (cong (λ zs → zipWith f zs (truncate (o≤o+m) ys)) (truncate-trans (o≤o+m) (o+m≤o+m+n) xs))
+    (zipWith-truncate f (truncate (o+m≤o+m+n) xs) ys)
```
Comment (jamesmckinna) [inline src/Data/Vec/Properties.agda]: Hmmm. Not quite sure what's being gained here over `truncate-zipWith-truncate` above, given that 
```agda
o≤o+m+n = ≤-trans o≤o+m o+m≤o+m+n
```
Fairbairn threshold?

File: src/Data/Vec/Properties.agda [hunk 14]
```diff
@@ -154,6 +159,70 @@ take≡truncate : ∀ m (xs : Vec A (m + n)) →
...
+
+truncate-updateAt : (f : A → A) (m≤n : m ≤ n) (xs : Vec A n) (i : Fin m) →
+                    updateAt (truncate m≤n xs) i f ≡ truncate m≤n (updateAt xs (inject≤ i m≤n) f)
+truncate-updateAt f (s≤s _  ) (_ ∷ _ ) zero = refl
+truncate-updateAt f (s≤s m≤n) (x ∷ xs) (suc i) = cong (x ∷_) (truncate-updateAt f m≤n xs i)
```
Comment (jamesmckinna) [inline src/Data/Vec/Properties.agda]: Move `f` binding?

File: src/Data/Vec/Properties.agda [hunk 15]
```diff
@@ -154,6 +159,70 @@ take≡truncate : ∀ m (xs : Vec A (m + n)) →
...
+
+module _  (f : A → A) {p q : ℕ} (xs : Vec A (p + q)) (i : Fin p) where
```
Comment (jamesmckinna) [inline src/Data/Vec/Properties.agda]:
```suggestion
module _ (xs : Vec A (m + n)) (i : Fin m) (f : A → A) where
```

File: src/Data/Vec/Properties.agda [hunk 16]
```diff
@@ -154,6 +159,70 @@ take≡truncate : ∀ m (xs : Vec A (m + n)) →
...
+  private
+    p≤p+q : p ≤ p + q
+    p≤p+q = m≤m+n p q
+    i′ : Fin (p + q)
+    i′ = inject≤ i p≤p+q
+
```
Comment (jamesmckinna) [inline src/Data/Vec/Properties.agda:184]:
```suggestion
  private
    i′ = inject≤ i (m≤m+n m n)
```
ie. inline the whole lot!

File: src/Data/Vec/Properties.agda [hunk 17]
```diff
@@ -154,6 +159,70 @@ take≡truncate : ∀ m (xs : Vec A (m + n)) →
...
+  updateAt-truncate : updateAt (truncate p≤p+q xs) i f ≡ truncate p≤p+q (updateAt xs i′ f)
+  updateAt-truncate = begin
+    updateAt (truncate p≤p+q xs) i f ≡⟨ cong (λ l → updateAt l i f) (sym (take≡truncate p xs)) ⟩
```
Comment (jamesmckinna) [inline src/Data/Vec/Properties.agda]: Avoid explicit `sym`
```suggestion
    updateAt (truncate p≤p+q xs) i f ≡⟨ cong (λ l → updateAt l i f) (take≡truncate p xs) ⟨
```

File: src/Data/Vec/Properties.agda [hunk 18]
```diff
@@ -154,6 +159,70 @@ take≡truncate : ∀ m (xs : Vec A (m + n)) →
...
+    updateAt (take p xs) i f         ≡⟨ take-updateAt f xs i ⟩
+    take p (updateAt xs i′ f)        ≡⟨ take≡truncate p (updateAt xs i′ f) ⟩
+    truncate p≤p+q (updateAt xs i′ f) ∎ where open ≡-Reasoning
```
Comment (jamesmckinna) [inline src/Data/Vec/Properties.agda]:
```suggestion
    truncate p≤p+q (updateAt xs i′ f) ∎
    where open ≡-Reasoning
```
See `style-guide` for layout conventions wrt equational proofs.

File: src/Data/Vec/Properties.agda [hunk 19]
```diff
@@ -154,6 +159,70 @@ take≡truncate : ∀ m (xs : Vec A (m + n)) →
...
+
+truncate++drop≡id : (xs : Vec A (m + n)) → truncate (m≤m+n m n) xs ++ drop m xs ≡ xs
+truncate++drop≡id {m = m} {n} xs = begin
+  truncate (m≤m+n m n) xs ++ drop m xs ≡⟨ cong (_++ drop m xs) (take≡truncate m xs) ⟨
+  take m xs ++ drop m xs               ≡⟨ take++drop≡id m xs ⟩
+  xs ∎ where open ≡-Reasoning
```
Comment (jamesmckinna) [inline src/Data/Vec/Properties.agda]: Ditto.

File: src/Data/Vec/Properties.agda [hunk 20]
```diff
@@ -472,6 +541,20 @@ toList-map : ∀ (f : A → B) (xs : Vec A n) →
 toList-map f [] = refl
 toList-map f (x ∷ xs) = cong (f x List.∷_) (toList-map f xs)
 
+truncate-map : (f : A → B) (m : ℕ) (m≤n : m ≤ n) (xs : Vec A n) →
```
Comment (jamesmckinna) [inline src/Data/Vec/Properties.agda]:
```suggestion
truncate-map : (f : A → B) (m≤n : m ≤ n) (xs : Vec A n) →
```

File: src/Data/Vec/Properties.agda [hunk 21]
```diff
@@ -472,6 +541,20 @@ toList-map : ∀ (f : A → B) (xs : Vec A n) →
...
+  map f (truncate m≤n xs) ≡ truncate m≤n (map f xs)
+truncate-map {n = n} f m m≤n xs =
```
Comment (jamesmckinna) [inline src/Data/Vec/Properties.agda]: ... with corresponding
```suggestion
truncate-map {m = m} {n = n} f m≤n xs =
```

File: src/Data/Vec/Properties.agda [hunk 22]
```diff
@@ -472,6 +541,20 @@ toList-map : ∀ (f : A → B) (xs : Vec A n) →
...
+  begin
+    map f (truncate m≤n xs)     ≡⟨ cong (map f) (truncate≡take m≤n xs eq) ⟩
+    map f (take m (cast eq xs)) ≡⟨ take-map f m _ ⟨
+    take m (map f (cast eq xs)) ≡⟨ cong (take m) (map-cast f eq xs) ⟩
+    take m (cast eq (map f xs)) ≡⟨ truncate≡take m≤n (map f xs) eq ⟨
+    truncate m≤n (map f xs) ∎
+ where
+   .eq : n ≡ m + (n ∸ m)
```
Comment (jamesmckinna) [inline src/Data/Vec/Properties.agda]: No need to mark `eq` as irrelevant; it's the proof which is ignored by `cast` etc.
```suggestion
   eq : n ≡ m + (n ∸ m)
```

File: src/Data/Vec/Properties.agda [hunk 23]
```diff
@@ -472,6 +541,20 @@ toList-map : ∀ (f : A → B) (xs : Vec A n) →
...
+   eq = sym (proj₂ (m≤n⇒∃[o]m+o≡n m≤n))
```
Comment (jamesmckinna) [inline src/Data/Vec/Properties.agda]: In fact, `Data.Nat.Properties.guarded-∸≗∸` is (more like) what you need here... and could then be inlined?

**Review by jamesmckinna — CHANGES_REQUESTED** [review]
Lots of things to fix, hopefully all (most?) of which will simplify what's here.

**Comment by jamesmckinna** [comment]
Thanks for the second contribution!
Once the backports #2799  from v2.3 have been merged into `master`, it will make sense to fix up the `CHANGELOG` conflicts, merge `master` into this branch, and then look at the suggested fixes.

File: src/Data/Vec/Properties.agda (hunk 23 above)
Comment (jamesmckinna) [reply src/Data/Vec/Properties.agda]: See also `padRight-drop′` and `padRight-take′` that I've added to #2787 for comparison.

**Comment by e-mniang** [comment]
Hi!
Thanks for your review. I made some changes based on what you said and deleted most of the things that could conflict with the Fairbairn threshold.
Let me know if anything else needs corrections.

File: CHANGELOG.md [hunk 24]
```diff
@@ -43,3 +43,27 @@ Additions to existing modules
   ∸-suc : m ≤ n → suc n ∸ m ≡ suc (n ∸ m)
   ```
 
+* In `Data.Vec.Properties`:
+  ```agda
+  updateAt-take : (xs : Vec A (m + n)) (i : Fin m) (f : A → A) →
+                  updateAt (take m xs) i f ≡ take m (updateAt xs (inject≤ i (m≤m+n m n)) f)
+
+  truncate-zipWith : (m≤n : m ≤ n) (xs : Vec A n) (ys : Vec B n) (f : A → B → C) →
+                    truncate m≤n (zipWith f xs ys) ≡ zipWith f (truncate m≤n xs) (truncate m≤n ys)
```
Comment (jamesmckinna) [inline CHANGELOG.md]: Sorry if I was ambiguous in my review: `updateAt` takes its `f` argument in *final* position, so it makes sense for its properties to mirror that; but `zipWith` takes *its* `f` argument in *first position, so...
```suggestion
  truncate-zipWith : (f : A → B → C) (m≤n : m ≤ n) (xs : Vec A n) (ys : Vec B n) →
                    truncate m≤n (zipWith f xs ys) ≡ zipWith f (truncate m≤n xs) (truncate m≤n ys)
```
or perhaps
```suggestion
  truncate-zipWith : (m≤n : m ≤ n) (f : A → B → C) (xs : Vec A n) (ys : Vec B n) →
                    truncate m≤n (zipWith f xs ys) ≡ zipWith f (truncate m≤n xs) (truncate m≤n ys)
```
if you think `truncate` takes priority here?

**Review by jamesmckinna — APPROVED** [review]
Sorry for the last nitpicks, but otherwise all looks good!
(But: you'll need to fix the `CHANGELOG` again... happens a lot at the beginning of a new cycle of vx.y developemnt :-()

File: CHANGELOG.md (hunk 24 above)
Comment (e-mniang) [reply CHANGELOG.md]: Hi!
Your review was perfectly clear — the fault is mine: I simply didn’t notice the mismatch between the changelog and the properties file.
Thanks for catching it!

File: src/Data/Vec/Properties.agda [hunk 25]
```diff
@@ -456,6 +492,19 @@ toList-map : ∀ (f : A → B) (xs : Vec A n) →
...
+map-truncate {m = m} {n = n} f m≤n xs =
+  let _ , n≡m+o = m≤n⇒∃[o]m+o≡n m≤n
+  in begin
+    map f (truncate m≤n xs)              ≡⟨ cong (map f) (truncate≡take m≤n xs (sym n≡m+o)) ⟩
+    map f (take m (cast (sym n≡m+o) xs)) ≡⟨ sym (take-map f m _) ⟩
+    take m (map f (cast (sym n≡m+o) xs)) ≡⟨ cong (take m) (map-cast f (sym n≡m+o) xs) ⟩
+    take m (cast (sym n≡m+o) (map f xs)) ≡⟨ sym (truncate≡take m≤n (map f xs) (sym n≡m+o)) ⟩
+    truncate m≤n (map f xs)              ∎
+  where
+    open ≡-Reasoning
```
Comment (jamesmckinna) [inline src/Data/Vec/Properties.agda]: Last nit pick, but feel free to ignore:
```suggestion
map-truncate {m = m} {n = n} f m≤n xs =
  let _ , n≡m+o = m≤n⇒∃[o]m+o≡n m≤n
  in let m+o≡n = sym n≡m+o
  in begin
    map f (truncate m≤n xs)              ≡⟨ cong (map f) (truncate≡take m≤n xs m+o≡n) ⟩
    map f (take m (cast m+o≡n xs)) ≡⟨ take-map f m _ ⟨
    take m (map f (cast m+o≡n xs)) ≡⟨ cong (take m) (map-cast f m+o≡n xs) ⟩
    take m (cast m+o≡n (map f xs)) ≡⟨ truncate≡take m≤n (map f xs) m+o≡n ⟨
    truncate m≤n (map f xs)              ∎
  where open ≡-Reasoning
```
(and scratching my head for how we decide when equations should be oriented one way, or the other ;-))

Comment (e-mniang) [reply src/Data/Vec/Properties.agda]: No problem, I just made the change. Just comment if anything else need any change or improvements!
